US07947738B2
(16-h) (±)-[(1S,5R,6S)-6-aminomethyl-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetic acid
Tert-butyl(±)-[(1S,5R,6S)-6-(tert-butoxycarbonylaminomethyl)-5-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate (120 mg, 0.34 mmol) was dissolved in a 4 N hydrochloric acid-ethyl acetate solution (2 mL), and the solution was stirred at room temperature for 3 hours and then concentrated under reduced pressure. The residue was dissolved in methylene chloride (2 mL). To the solution, triethylamine (0.048 mL, 0.34 mmol) was added dropwise at room temperature, and the mixture was stirred for 2 hours. The resulting powder was collected by filtration and dried to obtain the compound of interest as a white solid (22 mg).

reactant | Tert-butyl(±)-[(1S,5R,6S)-6-(tert-butoxycarbonylaminomethyl)-5-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate | 0.34 mmol, 120 mg | C(C)(C)(C)OC(=O)NC[C@]1([C@]2(C=CC[C@H]2C1)C)CC(=O)OC(C)(C)C | C20H33NO4
reactant | triethylamine | 0.34 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
solvent | hydrochloric acid ethyl acetate | 4 N, 2 mL | Cl.C(C)(=O)OCC
product | (±)-[(1S,5R,6S)-6-aminomethyl-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetic acid | 22 mg | NC[C@]1([C@]2(C=CC[C@H]2C1)C)CC(=O)O | C11H17NO2
